US07037932B2
a) 3-Chloro-1-(2-thienyl)-1-propanone
Chloropropionyl chloride (12 mL, 130 mmol) in dry dichloromethane (50 mL) was added dropwise at −5° C. to a stirred suspension of aluminium chloride (18.8 g, 141 mmol) in dry dichloromethane (100 mL). The resulting suspension was allowed to stir at −5° C. for 10 mins before a solution of thiophene (10 g, 118 mmol) in dry dichloromethane (50 mL) was added dropwise. The resulting orange solution was stirred at −5° C. for 1 hr before being carefully dropped onto crushed ice (200 g). The organic phase was separated and dried (MgSO4), the solvent was then passed through a pad of celite/charcoal to remove any colour. Removal of the solvent in vacuo resulted in the title compound as a colourless oil (20 g, 100%); δH (300 MHz, CDCl3) 7.75 (1H, d, Ar), 7.68 (1H, d, Ar), 7.15 (1H, m, Ar), 3.90 (2H, t, J=7 Hz, CH2), 3.38 (2H, t, J=7 Hz, CH2).

reactant | Chloropropionyl chloride | 130 mmol, 12 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminium chloride | 141 mmol, 18.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thiophene | 118 mmol, 10 g | S1C=CC=C1 | C4H4S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-Chloro-1-(2-thienyl)-1-propanone | 20 g, 100% | ClCCC(=O)C=1SC=CC1 | C7H7ClOS
